US07179823B1
A mixture of ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-carboxylate (2.84 g), 5% palladium-carbon (5.00 g), ethanol (25 ml), and tetrahydrofuran (25 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hours. After removal oh the catalyst by filtration, the filtrate was concentrated. The obtained crystals were collected by filtration, and ethyl 3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-carboxylate (968 mg, yield: 56%) was obtained. This was recrystallized from tetrahydrofuran-hexane. Melting point: 152–153° C.

reactant | ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-carboxylate | 2.84 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C42H38N4O7
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 5.00 g | [C].[Pd]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl 3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-carboxylate | 968 mg, yield: 56% | OC1=NN(C=C1C(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H23N3O5
